US09120728B2
N-[2-(3-fluoro-5-methylsulfonyl-phenoxy)ethyl]butan-1-amine
Preparation according to Example 1 but performed in one portion: 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene (0.3 g, 1.01 mmol) and butan-1-amine 0.61 ml, 0.5907 mmol) in ethanol (4 ml). Yield: 290 mg (99%). The amine was converted to the hydrochloric acid salt and re-crystallized from ethanol/diethyl ether: M.p. 204° C. MS m/z (relative intensity, 70 eV) 289 (M+, 1), 246 (35), 86 (bp), 56 (12), 87 (12).

reactant | 1-(2-bromoethoxy)-3-fluoro-5-methylsulfonyl-benzene | 1.01 mmol, 0.3 g | BrCCOC1=CC(=CC(=C1)S(=O)(=O)C)F | C9H10BrFO3S
reactant | butan-1-amine | 0.5907 mmol, 0.61 ml | C(CCC)N | C4H11N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | N-[2-(3-fluoro-5-methylsulfonyl-phenoxy)ethyl]butan-1-amine | FC=1C=C(OCCNCCCC)C=C(C1)S(=O)(=O)C | C13H20FNO3S
